US08809336B2
68D. C-[4-(4-Chloro-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-4-yl)-piperidin-4-yl]-methylamine
A mixture of crude 4-[4-(4-chlorophenyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-piperidin-1-yl]-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid (12.8 mg, 0.025 mmol) and water (1 mL) was irradiated in a microwave reactor (250 W) for 2 hrs at 180° C. The resulting suspension was filtered and the filtrate was concentrated. Preparative TLC gave the product (4 mg, 47%). LC-MS (LCT2) m/z 342 [M+H+], Rt 2.19 min.

reactant | 4-[4-(4-chlorophenyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-piperidin-1-yl]-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 0.025 mmol, 12.8 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)C1=C2C(=NC=C1C(=O)O)NC=C2)CN2C(C1=CC=CC=C1C2=O)=O | C28H23ClN4O4
solvent | water | 1 mL | O | H2O
product | C-[4-(4-Chloro-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-4-yl)-piperidin-4-yl]-methylamine | 4 mg, 47% | ClC1=CC=C(C=C1)C1(CCN(CC1)C1=C2C(=NC=C1)NC=C2)CN | C19H21ClN4
